US07932271B2
2-[(t-Butyldimethylsilyloxy)methyl]-4-[(2,5-difluorophenyl)hydroxymethyl]-5-methylpyridine
Under an argon atmosphere, n-butyl lithium (a 1.58M hexane solution, 400 μl, 0.632 mmol) was added to a diethyl ether (3 ml) solution of 4-bromo-2-[(t-butyldimethylsilyloxy)methyl]-5-methylpyridine (200 mg, 0.632 mmol) at −78° C. The resulting mixture was stirred for 1 hour. After 2,5-difluorobenzaldehyde (69 μl, 0.632 mmol) was added dropwise, the reaction mixture was stirred for 1 hour. To the reaction mixture were added water and a saturated aqueous solution of sodium bicarbonate, followed by extraction with diethyl ether. The extract was washed with brine. The organic layer thus obtained was dried over magnesium sulfate, and concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate=2:1 eluate was concentrated under reduced pressure to give the title compound (178 mg, 0.469 mmol, 74%) as a white powder.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | 4-bromo-2-[(t-butyldimethylsilyloxy)methyl]-5-methylpyridine | 0.632 mmol, 200 mg | BrC1=CC(=NC=C1C)CO[Si](C)(C)C(C)(C)C | C13H22BrNOSi
reactant | 2,5-difluorobenzaldehyde | 0.632 mmol, 69 μl | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
solvent | diethyl ether | 3 ml | C(C)OCC | C4H10O
solvent | hexane | 1.58M | CCCCCC | C6H14
product | 2-[(t-Butyldimethylsilyloxy)methyl]-4-[(2,5-difluorophenyl)hydroxymethyl]-5-methylpyridine | 0.469 mmol, 178 mg, 74% | [Si](C)(C)(C(C)(C)C)OCC1=NC=C(C(=C1)C(O)C1=C(C=CC(=C1)F)F)C | C20H27F2NO2Si
